US08378107B2
Step 1: (2-Chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-carbamic acid tert-butyl ester
To (2-chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-amine (0.59 g, 3.21 mmol) in CH2Cl2 (10 mL) was added di-tert-butyl dicarbonate (1.05 g, 4.81 mmol), and the reaction was stirred at room temperature for 30 minutes. The mixture was washed with saturated aqueous NaHCO3, H2O, and brine, and then dried over Na2SO4, decanted, and concentrated. The residue was purified by silica gel chromatography (0-50% EtOAc in hexanes) to give the title compound.

reactant | (2-chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-amine | 3.21 mmol, 0.59 g | ClC1=NC=C(C=C1CNCC)C | C9H13ClN2
reactant | di-tert-butyl dicarbonate | 4.81 mmol, 1.05 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2-Chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)CC=1C(=NC=C(C1)C)Cl)=O | C14H21ClN2O2
